US08242125B2
41-B. {4-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid
A solution of {4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid tert-butyl ester (250 mg, 0.44 mmol), DCM (5 mL), and TFA (5 mL) is stirred at rt for 1 h. The solution is concentrated in vacuo and separated via semi-prep HPLC (C18; 10-100% I/H2O with 0.1% NH4OH) to give the title compound. MS (ESI) m/z 512.0 (M+1); 1H NMR (400 MHz, MeOD) δ ppm 8.41 (s, 1H), 8.33 (d, J=9.1 Hz, 1H), 8.06 (s, 1H), 7.93 (d, J=3.5 Hz, 1H), 7.89 (s, 1H), 7.57 (t, J=8.1 Hz, 1H), 7.38-7.47 (m, 2H), 7.12 (dd, J=9.0, 2.4 Hz, 1H), 6.74 (d, J=3.5 Hz, 1H), 4.08 (s, 2H), 3.56 (s, 2H), 3.26 (t, J=6.1 Hz, 2H), 3.07 (t, J=5.7 Hz, 2H).

reactant | {4-[1-(3-trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid tert-butyl ester | 0.44 mmol, 250 mg | C(C)(C)(C)OC(CN1CC=2N=CN=C(C2CC1)OC=1C=C2C=CN(C2=CC1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)=O | C29H28F3N5O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | {4-[1-(3-Trifluoromethyl-phenylcarbamoyl)-1H-indol-5-yloxy]-5,8-dihydro-6H-pyrido[3,4-d]pyrimidin-7-yl}-acetic acid | FC(C=1C=C(C=CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CN(CC2)CC(=O)O)(F)F | C25H20F3N5O4
